US04415572
2-Nitro-5-piperazinylcinnamic acid (10 g) was suspended in 100 ml of ethyl alcohol and to the suspension was added dropwise 3 ml of thionyl chloride with ice cooling externally while stirring. After completion of addition, the mixture was heated under reflux for 3 hours and ethyl alcohol and thionyl chloride were removed by distillation. The residue was added to isopropyl alcohol and heated to dissolve. After cooling, yellow crystals which precipitated were collected by filtration to give 4.3 g of 2-nitro-5-piperazinylcinnamic acid ethyl ester hydrochloride, m.p. 210°-220° C.

reactant | 2-Nitro-5-piperazinylcinnamic acid | 10 g | [N+](=O)([O-])C1=C(C=CC(=O)O)C=C(C=C1)N1CCNCC1 | C13H15N3O4
reactant | thionyl chloride | 3 ml | S(=O)(Cl)Cl | Cl2OS
reactant | ethyl alcohol | 100 ml | C(C)O | C2H6O
product | 2-nitro-5-piperazinylcinnamic acid ethyl ester hydrochloride | 4.3 g | Cl.C(C)OC(C=CC1=C(C=CC(=C1)N1CCNCC1)[N+](=O)[O-])=O | InChI=1S/C15H19N3O4.ClH/c1-2-22-15(19)6-3-12-11-13(4-5-14(12)18(20)21)17-9-7-16-8-10-17;/h3-6,11,16H,2,7-10H2,1H3;1H
